US09422292B2
Sodium (2.4 g, 104 mmol) was added in portions to 50 mL of methanol until it dissolved. The solution was then added dropwise to a cooled solution of methyl 3-((2-amino-5-bromophenyl)amino)propanoate (9.4 g, 34.6 mmol) in 50 mL of methanol at 0° C. After additional, the mixture was stirred at room temperature overnight. It was concentrated, added with water (50 mL), extracted with ethyl acetate (50 mL) and purified by CombiFlash (PE:EA=5:1) to give 7-bromo-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one (2 g, yield 24%). LRMS (M+H)+: 240 m/z. 1H NMR (300 MHz, CDCl3) δ 2.68-2.72 (t, J=6.0 Hz, 2H), 3.68-3.72 (t, J=6.0 Hz, 2H), 6.79-6.82 (d, J=8.7 Hz, 2H), 6.98-7.06 (m, 2H), 8.00 (br, 1H).

reactant | Sodium | 104 mmol, 2.4 g | [Na] | Na
reactant | methyl 3-((2-amino-5-bromophenyl)amino)propanoate | 34.6 mmol, 9.4 g | NC1=C(C=C(C=C1)Br)NCCC(=O)OC | C10H13BrN2O2
solvent | methanol | 50 mL | CO | CH4O
solvent | methanol | 50 mL | CO | CH4O
product | 7-bromo-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one | 2 g, yield 24% | BrC1=CC2=C(NC(CCN2)=O)C=C1 | C9H9BrN2O
